US07838524B2
1-[5-tert-Butyl-2-(4-hydroxymethyl-phenyl)-2H-pyrazol-3-yl]-3-[2-fluoro-4-(2-methyl-Pyridin-4-yloxy)-phenyl)-urea
To a solution of 4-(3-tert-butyl-5-{3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-benzoic acid methyl ester (700 mg, 1.35 mmol) in anhydrous THF at 0° C. was slowly added a 1N solution of lithium aluminum hydride in THF (0.95 mL, 0.95 mmol). The mixture was stirred at room temperature for 15 minutes, and then water was added dropwise to quench the reaction. The mixture was extracted with EtOAc, and the combined organic phases were dried over MgSO4 and evaporated at reduced pressure. The residue was purified by HPLC (10% to 90% aq acetonitrile) to afford 600 mg (90%) of the title compound as a white solid. 1H-NMR (DMSO-d6) δ 8.97 (s, 1H), 8.79 (s, 1H), 8.29 (d, J=5.7 Hz, 1H), 8.13 (t, J=9.0 Hz, 1H), 7.46 (m, 4H), 7.18 (d, J=14.7 Hz, 1H), 6.95 (d, J=10.2 Hz, 1H), 6.76 (d, J=2.1 Hz, 1H), 6.71 (d, J=5.4 Hz, 1H), 6.36 (s, 1H), 5.30 (t, J=5.7 Hz, 2H), 2.38 (s, 3H), 1.25 (s, 9H); MS LC-MS [M+H]+=490.2, RT=2.41 min.

reactant | 4-(3-tert-butyl-5-{3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-benzoic acid methyl ester | 1.35 mmol, 700 mg | COC(C1=CC=C(C=C1)N1N=C(C=C1NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C)F)C(C)(C)C)=O | C28H28FN5O4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 0.95 mmol, 0.95 mL | C1CCOC1 | C4H8O
product | 1-[5-tert-Butyl-2-(4-hydroxymethyl-phenyl)-2H-pyrazol-3-yl]-3-[2-fluoro-4-(2-methyl-Pyridin-4-yloxy)-phenyl)-urea | 600 mg, 90% | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)CO)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C)F | C27H28FN5O3
